*********************************************************************************
*										*
*	    ,o888888o.    888888888888.   88888888888888 88888888888888		*
*	   8888     `88.  888888    `88.  888888         888888         	*
*	,888888       `8. 888888     `88  888888         888888         	*
*	8888888           888888     ,88  888888         888888         	*
*	8888888           888888.   ,88'  88888888888888 88888888888888 	*
*	8888888           888888888888'   888888         888888         	*
*	8888888           888888`8b       888888         888888         	*
*	`888888       .8' 888888 `8b.     888888         888888         	*
*	   8888     ,88'  888888   `8b.   888888         888888         	*
*	    `8888888P'    888888     `88. 88888888888888 88888888888888		*
*										*
*********************************************************************************

***********************************************************
****	Cree SiC MOSFET C2M0040120D Spice Library Beta Version
***********************************************************
****NO Parasitics Included
****Tj = Junction Temperature
****Tc = Case Temperature
***********************************************************

.subckt C2M0040120D d g s Tj Tc
.param af1=1
xgmos	d1 g1 s1 Tj Tc gmos params: af=af1

Ls 		s	s1	1f
R_Ls 		s	s1      10
Rg 		g1	g2	{1.8/af1}
Lg 		g	g3	1f
R_Lg		g	g3	10
Ld 		d	d3      1f
R_Ld		d	d3	10
B1		d2	d1      I=(V(d2,d1))/((0.0000009581*((V(Tj))**2)+0.0000828095*(V(Tj))+0.0304)+1n)
R_A		d2	d1	1E12
Vgate_s		g3	g2	0
Vdrain_s	d3	d2	0
Gheat		0	Tj	value = {abs((V(d,s)*I(Vdrain_s)))+abs((V(g1,g2)*I(Vgate_s)))}
XCGD		d1	g1	cgdmos params: af=af1
CGS		g1	s1	{1876.384p*af1}
CDS		d2	s1	{60p*af1}
D1		s1	d2	bodydiode
D2		s1	d2	bodydiode
D3		s1	d2	bodydiode
R0 N1 Tj 7.54m
R1 N2 N1 17.6m
R2 N3 N2 36.5m
R3 N4 N3 38.8m
R4 N5 N4 14.8m
R5 N6 N5 29.4m
R6 N7 N6 25.8m
R7 N8 N7 28.8m
R8 N9 N8 36m
R9 N10 N9 50.4m
R10 N11 N10 49.1m
R11 N12 N11 28.4m
R12 N13 N12 10.5m
R13 Tc N13 4.51m
C0 Tj Tc 1.75m
C1 N1 Tc 5.21m
C2 N2 Tc 12m
C3 N3 Tc 5.9m
C4 N4 Tc 21.5m
C5 N5 Tc 41.6m
C6 N6 Tc 57.1m
C7 N7 Tc 77m
C8 N8 Tc 0.106
C9 N9 Tc 0.109
C10 N10 Tc 0.113
C11 N11 Tc 0.206
C12 N12 Tc 0.894
C13 N13 Tc 17

.ends C2M0040120D 
*****************************************

.subckt gmos d1 g2 s1 Tj Tc

.param Adj = 0.42
B2		NET1	0	V=(-0.0122690476*(V(Tj))+14.9839166667)
R_B		NET1	0 	1E12
B3		NET2	0	V=((0.0000218811*((V(Tj))**2)-0.0177913141*(V(Tj))+8.3281636956)*Adj)
R_C		NET2	0 	1E12
.param p3  = 7
.param p4  = 0.0257											
.param p5  = 2.09
.param p6  = 2.0
.param p7  = 0.5
.param p8  = 0.001
.param p9  = {2*p3*p4}
.param p10 = {p9*p4}
.param p11 = -10
.param p12 = 25

R100 g1 s1	1e9
E100 g1 s1 	value = {limit(V(g2,s1),p11,p12)} 
G1 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0))/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}
G2 d1 s1 value =	{
+	if(V(d1,s1)<0,
+		p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(s1,d1))**p7)/p9)))**p5)
+		*(1+p8*v(s1,d1))
+		,
+		-p10*V(NET1,0)*((ln(1+exp((v(g1,s1)-V(NET2,0)-p6*(v(d1,s1))**p7)/p9)))**p5)
+		*(1+p8*v(d1,s1))
+		)
+			}

.ends gmos
****************************************

.model bodydiode d(is=1e-4 cjo=573.713p bv=1600 m=0.6 EG=3.26 vj=3.82 n=13.2 
+	rs=0.044  trs1=-0.0046833036 trs2=0.0000171023 Tnom=25
+	tt=15n ibv=500u Xti=40 level=1)
****************************************

.subckt cgdmos d2 g
.param k1=857.672p
.param k2=0.5
.param ka=18.096
.param kb=0.2678
.param kc=7.5277
G11 g d1 value = 	{
+		af*k1*(
+		(1+(limit(v(d1,g),0,500))*(1+ka*(1+TANH(kb*V(d1,g)-kc))/2))**-k2
+		)*ddt(v(g,d1))
+			}
R_CGD d1 d2 1e-3
C_CGD g d1 {1p*af}
.ends cgdmos
***************************************
                               